US05130323
A solution of (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-[(Z)-2-(4-methoxycarbonylphenyl)vinyl]pyrrolidine (15.5 g) in 90% aqueous trifluoroacetic acid (100 ml) was stirred at room temperature for 30 minutes and the solvent was evaporated in vacuo. The residue was suspended in chloroform (200 ml) and the solution was adjusted to pH 8 with saturated aqueous sodium bicarbonate. The organic phase was separated, washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residual solid was collected by filtration to give (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-2-(4-methoxycarbonylphenyl)vinyl]pyrrolidine (11.9 g) as a white powder.

reactant | (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-[(Z)-2-(4-methoxycarbonylphenyl)vinyl]pyrrolidine | 15.5 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/C1=CC=C(C=C1)C(=O)OC | C25H29ClN2O6S
solvent | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-2-(4-methoxycarbonylphenyl)vinyl]pyrrolidine | 11.9 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@H](NC1)\C=C/C1=CC=C(C=C1)C(=O)OC | C20H21ClN2O4S
